US06242443B1
3-sec-Butylamino-6-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide
A mixture of 2-amino-4-chlorobenzenesulfonamide (2.1 g, 10.16 mmol) and sec-butyl isothiocyanate (5.0 ml, 40.9 mmol) was heated at 150° C. for 4 h. The mixture was allowed to cool and then stirred with 25 ml of ethyl acetate for 1 h. The precipitate was isolated by filtration and recrystallised from ethanol to give 201 mg (7%) of the title compound as white crystals; m.p. 242-245° C.; 1H-NMR (DMSO-d6): δ 0.89 (t, 3H, CH2CH3), 1.15 (d, 3H, CHCH3), 1.50 (m, 2H, CH2), 3.76 (m, 1H, CH), 7.19 (br.s, 1H, NH), 7.29 (m, 2H, ArH), 7.68 (d, 1H,ArH), 10.35 (br.s, 1H, NH); MS: m/e 287/289 (M+); (C11H14Cl1O3S1) calc. C45.91 H, 4.90; N, 14.60; found C, 46.42; H, 5.08; N, 14.65.

reactant | 2-amino-4-chlorobenzenesulfonamide | 10.16 mmol, 2.1 g | NC1=C(C=CC(=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | sec-butyl isothiocyanate | 40.9 mmol, 5.0 ml | C(C)(CC)N=C=S | C5H9NS
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 3-sec-Butylamino-6-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 201 mg, 7% | C(C)(CC)NC1=NS(C2=C(N1)C=C(C=C2)Cl)(=O)=O | C11H14ClN3O2S
